US06518423B1
Methyl(10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)hydroxyacetate
150 mg of methyl iodide was added to a solution of 100 mg of (10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)hydroxyacetic acid in N,N-dimethylformamide (8 ml) in the presence of 260 mg of potassium carbonate. After purifying by silica gel column chromatography (eluted with dichloromethane/methanol) and recrystallizing from ethyl acetate/diisopropyl ether, 68 mg of the title compound was obtained as yellow crystals.

reactant | methyl iodide | 150 mg | CI | CH3I
reactant | (10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)hydroxyacetic acid | 100 mg | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)C(C(=O)O)O | C12H9N3O3S
reactant | potassium carbonate | 260 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | Methyl(10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)hydroxyacetate | 68 mg | COC(C(O)C=1C=CC2=C(NC3=C(S2)N=CC=N3)C1)=O | C13H11N3O3S
